US07163947B2
A suspension of 7-bromo-N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (1.00 g, 2.76 mmol) in 20 mL of 1-propanol was treated with the 3-(morpholine-4-carbonyl)phenylboronic acid (0.715 g, 3.04 mmol). The headspace of the flask was purged and back-filled with nitrogen (3×). The reaction mixture was then treated with triphenylphosphine (11 mg, 0.041 mmol), sodium carbonate (1.66 mL, 3.31 mmol, 2 M solution in H2O), H2O (2 mL), and palladium (II) acetate (3.1 mg, 0.014 mmol). Again the headspace of the flask was purged and back filled with nitrogen (3×). The reaction mixture was heated to 100° C. After 16 h, the reaction mixture was concentrated under reduced pressure to yield a brown solid. The solid was partitioned between CHCl3 (45 mL) and H2O (15 mL) and separated. The organic portion was washed again with H2O (15 mL) and brine (15 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield a tan solid. The solid was purified by chromatography (SiO2, 95:5 CHCl3: MeOH) to yield a light yellow foam. The foam was crystallized from 1:1 acetonitrile (MeCN):MeOH to give N1-isopropyl-7-[3-(morpholin-4-ylcarbonyl)phenyl]-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.683 g) as light yellow crystals. mp 274–276° C.; 1H NMR (300 MHz, DMSO-d6, 350 K) δ 8.56 (d, J=8.5 Hz, 1H), 7.86–7.81 (m, 2H), 7.74 (s, 1H), 7.57–7.52 (m, 2H), 7.38 (d, J=7.6 Hz, 1H), 6.81 (s, 1H), 6.21 (s, 2H), 3.65–3.62 (m, 4H), 3.58–3.54 (m, 5H), 2.93 (t, J=7.5 Hz, 2H), 1.96–1.83 (m, 2H), 1.07–1.02 (m, 9H); 13C NMR (75 MHz, DMSO-d6, 350 K) δ 169.5, 154.9, 152.3, 145.4, 141.1, 137.8, 136.9, 132.8, 129.4, 128.1, 126.1, 125.5, 124.6, 124.1, 122.0, 119.9, 114.7, 66.5, 51.4, 45.4, 28.3, 20.9, 20.6, 14.1; MS (APCI) m/z 473 (M+H)+; Anal. Calcd for C27H32N6O2: C, 68.62; H, 6.83; N, 17.78; Found: C, 68.73; H, 6.71; N, 17.85.

reactant | 7-bromo-N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 2.76 mmol, 1.00 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3NC(C)C)CCC | C16H20BrN5
reactant | 3-(morpholine-4-carbonyl)phenylboronic acid | 3.04 mmol, 0.715 g | N1(CCOCC1)C(=O)C=1C=C(C=CC1)B(O)O | C11H14BNO4
reactant | sodium carbonate | 3.31 mmol, 2 M, 1.66 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | H2O | 2 mL | O | H2O
solvent | 1-propanol | 20 mL | C(CC)O | C3H8O
catalyst | palladium (II) acetate | 0.014 mmol, 3.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.041 mmol, 11 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | N1-isopropyl-7-[3-(morpholin-4-ylcarbonyl)phenyl]-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.683 g | C(C)(C)NN1C(=NC=2C(=NC=3C=C(C=CC3C21)C2=CC(=CC=C2)C(=O)N2CCOCC2)N)CCC | C27H32N6O2
